US09169270B2
A mixture of {4-chloro-2-[2-(2-isopropyl-thiazol-4-yl)-ethylcarbamoyl]-phenoxy}-acetic acid ethyl ester (100 mg, 0.24 mmol, 1 eq.) and POCl3 (0.34 mL, 3.65 mmol, 15 eq.) in MeCN (2 mL) was stirred at 80° C. for 18 hours. The mixture was allowed to cool down to r.t. and concentrated in vacuo. The residue was purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give ethyl 2-(4-chloro-2-(2-isopropyl-6,7-dihydrothiazolo[5,4-c]pyridin-4-yl)phenoxy)acetate as a yellow oil.

reactant | {4-chloro-2-[2-(2-isopropyl-thiazol-4-yl)-ethylcarbamoyl]-phenoxy}-acetic acid ethyl ester | 0.24 mmol, 100 mg, 1 eq. | C(C)OC(COC1=C(C=C(C=C1)Cl)C(NCCC=1N=C(SC1)C(C)C)=O)=O | C19H23ClN2O4S
reactant | POCl3 | 3.65 mmol, 0.34 mL, 15 eq. | O=P(Cl)(Cl)Cl | Cl3OP
solvent | MeCN | 2 mL | CC#N | C2H3N
product | ethyl 2-(4-chloro-2-(2-isopropyl-6,7-dihydrothiazolo[5,4-c]pyridin-4-yl)phenoxy)acetate | ClC1=CC(=C(OCC(=O)OCC)C=C1)C1=NCCC2=C1SC(=N2)C(C)C | C19H21ClN2O3S
